US08013003B2
5,6-Dihydro-2H-pyran-2-one (1.0 g, 10.2 mmol) was dissolved in 3 ml of a 33% solution of methylamine in ethanol and heated to 55° C. overnight. The solvent was evaporated, the residue dissolved in methanol (20 ml) and conc. HCl (20 ml) and the mixture heated at 95° C. for 2.5 h. The mixture was evaporated to dryness, the residue dissolved in THF (20 ml), dichloromethane (20 ml) and triethylamine (3 ml) and a solution of [2,1,3]-benzoxadiazole-5-carboxylic acid chloride (2.0 g, 11 mmol), in dichloromethane (5 ml), added. After stirring is the mixture for 0.75 h, the mixture was washed with 1N HCl and conc. NaHCO3 solution, dried over sodium sulfate, and concentrated under vacuum. The residue was purified on a silica gel column using ethyl acetate/hexane/dichloromethane (70:20:10), to give N-methyl-N-(2-oxotetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide as white solid after crystallization from dichloromethane/methanol (0.21 g). Mp=169-171° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 7.97 (d, J=9.0 Hz, 1H); 7.90 (s, 1H); 7.40 (d, J=9.0 Hz, 1H); 5.10-4.40 (m, 3H); 3.01 (s, 3H); 3.00-2.74 (m, 2H) and 2.60-2.10 ppm (s, 2H).

reactant | 5,6-Dihydro-2H-pyran-2-one | 10.2 mmol, 1.0 g | O1C(C=CCC1)=O | C5H6O2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | [2,1,3]-benzoxadiazole-5-carboxylic acid chloride | 11 mmol, 2.0 g | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-methyl-N-(2-oxotetrahydro-2H-pyran-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CC(OCC1)=O | C13H13N3O4
